US07160888B2
Synthesis of 7-{4-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-butoxy}-3-methyl-3,4-dihydro-1H-[1,8]naphthyridin-2-one
To a solution of crude 4-(6-methyl-7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde (0.5 g, 2.0 mmol, 1.0 equiv) in anhydrous methanol (40 mL) cooled to 0° C. was added 2,3-dichlorophenylpiperazine (1.1 g, 4.0 mmol, 2.0 equiv). The mixture was stirred for 5 min and NaBH(OAc)3 (2.14 g, 10.0 mmol, 5.0 equiv) was added. The reaction mixture was brought to room temperature and stirred overnight. TLC indicated a trace amount of aldehyde was still left. More NaBH(OAc)3 was added and stirring continued for one more hour. TLC indicated the reaction was complete. The reaction mixture was concentrated to dryness. The resultant pale green residue was dissolved in ethyl acetate and washed with 0.5 N HCl (1×10 mL), saturated NaHCO3 solution (1×10 mL) and brine. The organic layer was dried over Na2SO4 and concentrated. The residue was purified by column chromatography (silica gel, 2% MeOH/CH2Cl2) to afford the title compound as a colorless viscous material (0.63 g, 75% over 2 steps). The enantiomers were separated by chiral HPLC (Chiralpak AD, 40:60 Hexane/EtOH) to give the enantiomers D6a and D6b. MS: APCI: M+1: 463.1 (Exact Mass: 462.16).

reactant | 4-(6-methyl-7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde | 2.0 mmol, 0.5 g, 1.0 equiv | CC1CC=2C=CC(=NC2NC1=O)OCCCC=O | C13H16N2O3
reactant | 2,3-dichlorophenylpiperazine | 4.0 mmol, 1.1 g, 2.0 equiv | ClC1=C(C=CC=C1Cl)N1CCNCC1 | C10H12Cl2N2
reactant | NaBH(OAc)3 | 10.0 mmol, 2.14 g, 5.0 equiv | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methanol | 40 mL | CO | CH4O
product | 7-{4-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-butoxy}-3-methyl-3,4-dihydro-1H-[1,8]naphthyridin-2-one | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCCOC1=CC=C2CC(C(NC2=N1)=O)C | C23H28Cl2N4O2
